US04945091
Synthesis of 4,5-dichloro-2-(2-methyl-2-propenyl)-3(2H)-pyridazinone
To 50 ml of N,N-dimethylformamide were suspended 10 g of 4,5-dichloro-3(2H)-pyridazinone, 27 g of 3-chloro-2-methylpropene and 8.4 g of potassium carbonate. The mixtured solution was stirred for 5 hours at 40° C. Then, the procedures in Preparation Example 2 were repeated to give 4.9 g of the intended compound.

reactant | 4,5-dichloro-3(2H)-pyridazinone | 10 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | 3-chloro-2-methylpropene | 27 g | ClCC(=C)C | C4H7Cl
reactant | potassium carbonate | 8.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4,5-dichloro-2-(2-methyl-2-propenyl)-3(2H)-pyridazinone | 4.9 g | ClC=1C(N(N=CC1Cl)CC(=C)C)=O | C8H8Cl2N2O
